*   BF904 SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF904 1 2 3 4
        L10          1 10   L=0.12N
        L20          2 20   L=0.12N
        L30          3 30   L=0.12N
        L40          4 40   L=0.12N
        L11         10 11   L=1.20N
        L21         20 21   L=1.20N
        L31         30 31   L=1.20N
        L41         40 41   L=1.20N
        C13         10 30   C=0.085P
        C14         10 40   C=0.085P
        C21         10 20   C=0.017P
        C23         20 30   C=0.085P
        C24         20 40   C=0.005P
        D11         11 41   ZENER
        D22         11 31   ZENER
        RSUB        10 12   R=10
        MOS1A       61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2A       21 31 61 12 GATE2 L=2.0E-6 W=1150E-6
        MOS1B       71 41 11 12 GATE3 L=1.1E-6 W=   6E-6
        MOS2B       41 31 71 12 GATE4 L=4.0E-6 W=   6E-6

.MODEL  ZENER
+  D  BV=10 CJO=0.6E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=1.5E-12 CBS=0.5E-12

.MODEL  GATE3
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.MODEL  GATE4
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.ENDS BF904
*   BF904R SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143R 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF904R 1 2 3 4
        L10          1 10   L=0.12N
        L20          2 20   L=0.12N
        L30          3 30   L=0.12N
        L40          4 40   L=0.12N
        L11         10 11   L=1.20N
        L21         20 21   L=1.20N
        L31         30 31   L=1.20N
        L41         40 41   L=1.20N
        C13         10 30   C=0.085P
        C14         10 40   C=0.085P
        C21         10 20   C=0.017P
        C23         20 30   C=0.085P
        C24         20 40   C=0.005P
        D11         11 41   ZENER
        D22         11 31   ZENER
        RSUB        10 12   R=10
        MOS1A       61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2A       21 31 61 12 GATE2 L=2.0E-6 W=1150E-6
        MOS1B       71 41 11 12 GATE3 L=1.1E-6 W=   6E-6
        MOS2B       41 31 71 12 GATE4 L=4.0E-6 W=   6E-6

.MODEL  ZENER
+  D  BV=10 CJO=0.6E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=1.5E-12 CBS=0.5E-12

.MODEL  GATE3
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.MODEL  GATE4
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.ENDS BF904R
*   BF904WR SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT343 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF904WR 1 2 3 4
        L10          1 10   L=0.10N
        L20          2 20   L=0.34N
        L30          3 30   L=0.34N
        L40          4 40   L=0.34N
        L11         10 11   L=1.10N
        L21         20 21   L=1.10N
        L31         30 31   L=1.10N
        L41         40 41   L=1.10N
        C13         10 30   C=0.060P
        C14         10 40   C=0.060P
        C21         10 20   C=0.050P
        C23         20 30   C=0.070P
        C24         20 40   C=0.005P
        D11         11 41   ZENER
        D22         11 31   ZENER
        RSUB        10 12   R=10
        MOS1A       61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2A       21 31 61 12 GATE2 L=2.0E-6 W=1150E-6
        MOS1B       71 41 11 12 GATE3 L=1.1E-6 W=   6E-6
        MOS2B       41 31 71 12 GATE4 L=4.0E-6 W=   6E-6

.MODEL  ZENER
+  D  BV=10 CJO=0.6E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=1.5E-12 CBS=0.5E-12

.MODEL  GATE3
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.MODEL  GATE4
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.ENDS BF904WR
*   BF908WR SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT343 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF908WR 1 2 3 4
        L10          1 10   L=0.10N
        L20          2 20   L=0.34N
        L30          3 30   L=0.34N
        L40          4 40   L=0.34N
        L11         10 11   L=1.10N
        L21         20 21   L=1.10N
        L31         30 31   L=1.10N
        L41         40 41   L=1.10N
        C13         10 30   C=0.060P
        C14         10 40   C=0.060P
        C21         10 20   C=0.050P
        C23         20 30   C=0.070P
        C24         20 40   C=0.005P
        D11        42 11   ZENER
        D12        42 41   ZENER
        D21        32 11   ZENER
        D22        32 31   ZENER
        RS         10 12   R=100
        MOS1       61 41 11 12 GATE1 L=1.1E-6 W=1750E-6
        MOS2       21 31 61 12 GATE2 L=2.0E-6 W=1750E-6

.MODEL  ZENER
+  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=33E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=33E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.7E-12 CBS=0.5E-12

.ENDS BF908WR
*   BF909 SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF909 1 2 3 4
        L10          1 10   L=0.12N
        L20          2 20   L=0.12N
        L30          3 30   L=0.12N
        L40          4 40   L=0.12N
        L11         10 11   L=1.20N
        L21         20 21   L=1.20N
        L31         30 31   L=1.20N
        L41         40 41   L=1.20N
        C13         10 30   C=0.085P
        C14         10 40   C=0.085P
        C21         10 20   C=0.017P
        C23         20 30   C=0.085P
        C24         20 40   C=0.005P
        D11         11 41   ZENER
        D22         11 31   ZENER
        RS          10 12   R=10
        MOS1A       61 41 11 12 GATE1 L=1.1E-6 W=1750E-6
        MOS2A       21 31 61 12 GATE2 L=2.0E-6 W=1750E-6
        MOS1B       71 41 11 12 GATE3 L=1.1E-6 W=   6E-6
        MOS2B       41 31 71 12 GATE4 L=4.0E-6 W=   6E-6

.MODEL  ZENER
+  D  BV=10 CJO=0.6E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=1.5E-12 CBS=0.7E-12

.MODEL  GATE3
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15 VMAX=140E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.MODEL  GATE4
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15  VMAX=100E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12


.ENDS BF909
*   BF909R SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143R 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF909R 1 2 3 4
        L10          1 10   L=0.12N
        L20          2 20   L=0.12N
        L30          3 30   L=0.12N
        L40          4 40   L=0.12N
        L11         10 11   L=1.20N
        L21         20 21   L=1.20N
        L31         30 31   L=1.20N
        L41         40 41   L=1.20N
        C13         10 30   C=0.085P
        C14         10 40   C=0.085P
        C21         10 20   C=0.017P
        C23         20 30   C=0.085P
        C24         20 40   C=0.005P
        D11         11 41   ZENER
        D22         11 31   ZENER
        RS          10 12   R=10
        MOS1A       61 41 11 12 GATE1 L=1.1E-6 W=1750E-6
        MOS2A       21 31 61 12 GATE2 L=2.0E-6 W=1750E-6
        MOS1B       71 41 11 12 GATE3 L=1.1E-6 W=   6E-6
        MOS2B       41 31 71 12 GATE4 L=4.0E-6 W=   6E-6

.MODEL  ZENER
+  D  BV=10 CJO=0.6E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=1.5E-12 CBS=0.7E-12

.MODEL  GATE3
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15 VMAX=140E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.MODEL  GATE4
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15  VMAX=100E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12


.ENDS BF909R
*   BF909WR SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT343 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF909WR 1 2 3 4
        L10          1 10   L=0.10N
        L20          2 20   L=0.34N
        L30          3 30   L=0.34N
        L40          4 40   L=0.34N
        L11         10 11   L=1.10N
        L21         20 21   L=1.10N
        L31         30 31   L=1.10N
        L41         40 41   L=1.10N
        C13         10 30   C=0.060P
        C14         10 40   C=0.060P
        C21         10 20   C=0.050P
        C23         20 30   C=0.070P
        C24         20 40   C=0.005P
        D11         11 41   ZENER
        D22         11 31   ZENER
        RS          10 12   R=10
        MOS1A       61 41 11 12 GATE1 L=1.1E-6 W=1750E-6
        MOS2A       21 31 61 12 GATE2 L=2.0E-6 W=1750E-6
        MOS1B       71 41 11 12 GATE3 L=1.1E-6 W=   6E-6
        MOS2B       41 31 71 12 GATE4 L=4.0E-6 W=   6E-6

.MODEL  ZENER
+  D  BV=10 CJO=0.6E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=1.5E-12 CBS=0.7E-12

.MODEL  GATE3
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15 VMAX=140E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12

.MODEL  GATE4
+  NMOS LEVEL=3 UO=600  VTO=+0.700 NFS=300E9 TOX=33E-9
+  NSUB=3E15  VMAX=100E3 RS=400 RD=400 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.1E-12 CBS=0.1E-12


.ENDS BF909WR
*   BF998 SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF998 1 2 3 4
        L10          1 10   L=0.12N
        L20          2 20   L=0.12N
        L30          3 30   L=0.12N
        L40          4 40   L=0.12N
        L11         10 11   L=1.20N
        L21         20 21   L=1.20N
        L31         30 31   L=1.20N
        L41         40 41   L=1.20N
        C13         10 30   C=0.085P
        C14         10 40   C=0.085P
        C21         10 20   C=0.017P
        C23         20 30   C=0.085P
        C24         20 40   C=0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   R=100
        MOS1        61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2        21 31 61 12 GATE2 L=2.0E-6 W=1150E-6

.MODEL  ZENER  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2 
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.ENDS BF998
*   BF998R SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT143R 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF998R 1 2 3 4
        L10          1 10   L=0.12N
        L20          2 20   L=0.12N
        L30          3 30   L=0.12N
        L40          4 40   L=0.12N
        L11         10 11   L=1.20N
        L21         20 21   L=1.20N
        L31         30 31   L=1.20N
        L41         40 41   L=1.20N
        C13         10 30   C=0.085P
        C14         10 40   C=0.085P
        C21         10 20   C=0.017P
        C23         20 30   C=0.085P
        C24         20 40   C=0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   R=100
        MOS1        61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2        21 31 61 12 GATE2 L=2.0E-6 W=1150E-6

.MODEL  ZENER  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2 
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.ENDS BF998R
*   BF998WR SPICE MODEL OCTOBER 1993 PHILIPS SEMICONDUCTORS
*   ENVELOPE    SOT343 
*   1.: SOURCE;  2.: DRAIN;  3.: GATE 2;  4.: GATE 1;
.SUBCKT BF998WR 1 2 3 4
        L10          1 10   L=0.10N
        L20          2 20   L=0.34N
        L30          3 30   L=0.34N
        L40          4 40   L=0.34N
        L11         10 11   L=1.10N
        L21         20 21   L=1.10N
        L31         30 31   L=1.10N
        L41         40 41   L=1.10N
        C13         10 30   C=0.060P
        C14         10 40   C=0.060P
        C21         10 20   C=0.050P
        C23         20 30   C=0.070P
        C24         20 40   C=0.005P
        D11         42 11   ZENER
        D12         42 41   ZENER
        D21         32 11   ZENER
        D22         32 31   ZENER
        RS          10 12   R=100
        MOS1        61 41 11 12 GATE1 L=1.1E-6 W=1150E-6
        MOS2        21 31 61 12 GATE2 L=2.0E-6 W=1150E-6

.MODEL  ZENER  D  BV=10 CJO=1.2E-12  RS=10

.MODEL  GATE1
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15 VMAX=140E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06 KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.MODEL  GATE2 
+  NMOS LEVEL=3 UO=600  VTO=-0.250 NFS=300E9 TOX=42E-9
+  NSUB=3E15  VMAX=100E3 RS=2.0 RD=2.0 XJ=200E-9 THETA=0.11
+  ETA=0.06  KAPPA=2 LD=0.1E-6
+  CGSO=0.3E-9 CGDO=0.3E-9 CBD=0.5E-12 CBS=0.5E-12

.ENDS BF998WR
.SUBCKT bsv81 10 20 30
M1 10 20 30 30 NMOS
.MODEL NMOS NMOS
+ LEVEL=3
+ W=1E-3
+ L=1E-6
+ UO=380.8
+ VTO=-1.035
+ NFS=1E12
+ TOX=1E-7
+ NSUB=1.153E15
+ NSS=0
+ VMAX=1E6
+ RS=3
+ RD=3
+ RSH=0
+ CBD=0
+ CBS=0
+ CJ=0.001396
+ MJ=0.3936
+ CJSW=0
+ MJSW=0.33
+ IS=1E-14
+ PB=0.5983
+ FC=0.5
+ XJ=0
+ LD=0
+ DELTA=0
+ THETA=1E-6
+ ETA=0.009307
+ KAPPA=2.226
.ENDS
